US09216173B2
To a solution of tetrahydropyran-4-one (150 g, 1.50 mol) in methanol (1500 mL) was added potassium cyanide (6.0 M in water, 400 mL, 2.4 mol), ammonium hydroxide (25% solution in water, 1000 mL, 7.4 mol), and ammonium chloride (161 g, 3.00 mol). The reaction mixture was heated to 70° C. After 16 hours, the reaction mixture was cooled, quenched with cold brine (2000 mL), and extracted with dichloromethane (4×1500 mL). The organic layers were combined, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to afford 4-amino-tetrahydro-2H-pyran-4-carbonitrile. The material was used without further purification.

reactant | tetrahydropyran-4-one | 1.50 mol, 150 g | O1CCC(CC1)=O | C5H8O2
reactant | potassium cyanide | 2.4 mol, 6.0 M, 400 mL | [C-]#N.[K+]
reactant | ammonium hydroxide | 7.4 mol, 1000 mL | [OH-].[NH4+]
reactant | ammonium chloride | 3.00 mol, 161 g | [Cl-].[NH4+]
solvent | methanol | 1500 mL | CO | CH4O
product | 4-amino-tetrahydro-2H-pyran-4-carbonitrile | NC1(CCOCC1)C#N | C6H10N2O
